US06552021B2
A mixture of 5-aminoquinoxaline (1.0 g, 6.89 mmol), 2-bromo-3-nitrobenzoic acid (4.0 g, 13.78 mmol), Cu/CuI (catalytic) and N-ethylmorpholine (5 mL) in isopropanol (5 mL) was heated at 65-70° C. overnight. The mixture was then dissolved in aqueous ammonia, treated with charcoal/Celite, and filtered. The filtrate was acidified with conc. HCl, and the resulting precipitate was collected while the mixture was still warm and washed with water (to remove unreacted 2-bromo-3-nitrobenzoic acid). It was then dried and chromatographed on silica gel, eluting with CH2Cl2/MeOH (19:1), to give 3-nitro-(quinoxalinylamino)benzoic acid (0.9 g, 42%): mp (MeOH) 232-237° C.; 1H NMR [(CD3)2SO] δ 6.92-6.97 (m, 1 H, ArH), 7.30 (t, J=8.0 Hz, 1 H, ArH), 7.62-7.66 (m, 2 H, 2xArH), 8.23 (dd, J=8.2, 1.6 Hz, 1 H, ArH), 8.29 (dd, J=7.8, 1.6 Hz, 1 H, ArH), 8.97 (d, J=1.7 Hz, 1 H, H-2′ or H-3′), 9.03 (d, J=1.9 Hz, 1 H, H-2′ or H-3′), 10.73 (br s, 1 H, NH), 13.8 (br s, 1 H, CO2H).

reactant | 5-aminoquinoxaline | 6.89 mmol, 1.0 g | NC1=C2N=CC=NC2=CC=C1 | C8H7N3
reactant | 2-bromo-3-nitrobenzoic acid | 13.78 mmol, 4.0 g | BrC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4BrNO4
reactant | N-ethylmorpholine | 5 mL | C(C)N1CCOCC1 | C6H13NO
reactant | charcoal | C | CH4
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | ammonia | N | H3N
product | 3-nitro-(quinoxalinylamino)benzoic acid | 0.9 g, 42% | [N+](=O)([O-])C=1C(=C(C(=O)O)C=CC1)NC1=NC2=CC=CC=C2N=C1 | C15H10N4O4
